US05217975
Ethyl 1-azabicyclo[2.2.1]hept-4-ylcarboxylate hydrobromide salt (D13)
A suspension of ethyl 1-benzyl-1-azoniabicyclo[2.2.1]hept-4-ylcarboxylate bromide (D12, 130 g, 0.38 mole) in ethanol (500 ml) was hydrogenated over 10% palladium on charcoal catalyst (8 g) at atmospheric temperature and pressure for 18 h. The catalyst was removed by filtering through celite, washing several times with hot ethanol, and the filtrate concentrated in vacuo to give the title compound (D13) as a crystalline white solid (80.1 g, 84%).

reactant | ethyl 1-benzyl-1-azoniabicyclo[2.2.1]hept-4-ylcarboxylate bromide | 0.38 mole, 130 g | [Br-].C(C1=CC=CC=C1)[N+]12CCC(CC1)(C2)C(=O)OCC
solvent | ethanol | 500 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | 8 g | [Pd] | Pd
product | Ethyl 1-azabicyclo[2.2.1]hept-4-ylcarboxylate hydrobromide salt | 80.1 g, 84% | Br.N12CCC(CC1)(C2)C(=O)OCC | InChI=1S/C9H15NO2.BrH/c1-2-12-8(11)9-3-5-10(7-9)6-4-9;/h2-7H2,1H3;1H
